US06060477
7-(3-Hydroxypropylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
In a similar manner to Example 38, reaction of 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.45 g) and 3-amino-1-propanol (0.98 g) in ethanol (15 ml) yielded the title compound, 0.31 g, m.p. 185-6° C. (recrystallized from ethanol).

reactant | 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.45 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | 3-amino-1-propanol | 0.98 g | NCCCO | C3H9NO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 7-(3-Hydroxypropylamino)-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | OCCCNC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C18H21N5O3
